US08871187B2
5-1 Methyl (R)-2-amino-3-(4-methoxyphenyl)propanoate
20 ml of sulphuric acid are added, dropwise, over a period of 30 minutes, to a solution containing 13 g (66.6 mmol) of (R)-2-amino-3-(4-methoxyphenyl)propionic acid in 150 ml of methanol. After stirring for 24 hours at ambient temperature, the reaction medium is basified to pH 8-9 by introducing 10N sodium hydroxide and a saturated solution of sodium hydrogen carbonate, followed by extraction with dichloromethane. The organic phase is dried over sodium sulphate, filtered and evaporated. 12.8 g in the form of a pale yellow oil are obtained with a yield of 92%.

reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | (R)-2-amino-3-(4-methoxyphenyl)propionic acid | 66.6 mmol, 13 g | N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C10H13NO3
reactant | sodium hydroxide | 10N | [OH-].[Na+]
reactant | methanol | 150 ml | CO | CH4O
product | Methyl (R)-2-amino-3-(4-methoxyphenyl)propanoate | yield of 92% | N[C@@H](C(=O)OC)CC1=CC=C(C=C1)OC | C11H15NO3
